US07365095B2
To a solution of 2,6-dichlorobromobenzene (3.5 g, 15.7 mmol) and sodium hydroxide (3.14 g, 78.5 mmol) in DME-water (2:1) was added 5-fluoro-2-methoxybenzene boronic acid (4.0 g, 23.5 mmol) at 90° C., followed by tetrakis(triphenylphosphine)palladium (0) (0.9 g, 0.78 mmol). The reaction mixture was heated at 90° C. overnight and cooled to room temperature. The mixture was extracted with methylene chloride and washed with water. The organic solvent was removed under vacuum. Chromatography with 5% ethyl acetate in hexanes afforded 2.62 g (87%) of 2′,6′-dichloro-5-fluoro-2-methoxybiphenyl as a colorless oil. MS (EI) m/z 270 (M+).

reactant | 2,6-dichlorobromobenzene | 15.7 mmol, 3.5 g | ClC1=C(C(=CC=C1)Cl)Br | C6H3BrCl2
reactant | sodium hydroxide | 78.5 mmol, 3.14 g | [OH-].[Na+]
reactant | 5-fluoro-2-methoxybenzene boronic acid | 23.5 mmol, 4.0 g | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
solvent | DME water | COCCOC.O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.78 mmol, 0.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′,6′-dichloro-5-fluoro-2-methoxybiphenyl | 2.62 g, 87% | ClC1=C(C(=CC=C1)Cl)C1=C(C=CC(=C1)F)OC | C13H9Cl2FO
